US08071592B2
(d) 1-{2-[(3S)-3-(Aminomethyl)-1-piperidinyl]ethyl}-7-(methyloxy)-1,5-naphthyridin-2(1H)-one
To a solution of phenylmethyl [((3S)-1-{2-[7-(methyloxy)-2-oxo-1,5-naphthyridin-1(2H)-yl]ethyl}-3-piperidinyl)methyl]carbamate (0.21 g, 0.44 mmol) in MeOH (30 mL) was added 10% Palladium on carbon (0.20 g) and the solution subjected to H2 at 50 PSI on a Parr shaker. The solution was filtered through a pad of Celite® and concentrated under reduced pressure to give desired product (0.149 g, 100%)

reactant | phenylmethyl [((3S)-1-{2-[7-(methyloxy)-2-oxo-1,5-naphthyridin-1(2H)-yl]ethyl}-3-piperidinyl)methyl]carbamate | 0.44 mmol, 0.21 g | COC1=CN=C2C=CC(N(C2=C1)CCN1C[C@@H](CCC1)CNC(OCC1=CC=CC=C1)=O)=O | C25H30N4O4
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Palladium on carbon | 0.20 g | [Pd] | Pd
product | 1-{2-[(3S)-3-(Aminomethyl)-1-piperidinyl]ethyl}-7-(methyloxy)-1,5-naphthyridin-2(1H)-one | 0.149 g, 100% | NC[C@H]1CN(CCC1)CCN1C(C=CC2=NC=C(C=C12)OC)=O | C17H24N4O2
